US09085555B2
C. (2S,3S,4S)-3-(tert-Butyl-dimethyl-silanyloxy)-2-[1-(3-chloro-2-fluoro-phenyl)-cyclopropyl carbamoyl]-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,3S,4S)-3-(tert-butyl-dimethyl-silanyloxy)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (300 mg, 0.825 mmol), 1-(3-chloro-2-fluoro-phenyl)-cyclopropylamine (prepared as described in Part C, 272 mg, 0.908 mmol) and HBTU (376 mg, 0.99 mmol) in DMF (10 mL) was added DIPEA (0.432 ml, 2.476 mmol) under nitrogen atmosphere. The reaction mixture was stirred 2 h at 25° C. Then quenched by addition of a saturated aqueous solution of NaHCO3 and extracted with EtOAc (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:1). MS (UPLC): 531.5/533.5 [M+H]+, 505.5 [M+NH4]+, 510.4 [M+Na]+; tR (UPLC conditions m): 1.55 min.

reactant | (2S,3S,4S)-3-(tert-butyl-dimethyl-silanyloxy)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.825 mmol, 300 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O[Si](C)(C)C(C)(C)C)C(=O)O | C16H30FNO5Si
reactant | 1-(3-chloro-2-fluoro-phenyl)-cyclopropylamine | 0.908 mmol, 272 mg | ClC=1C(=C(C=CC1)C1(CC1)N)F | C9H9ClFN
reactant | HBTU | 0.99 mmol, 376 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.476 mmol, 0.432 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S,3S,4S)-3-(tert-Butyl-dimethyl-silanyloxy)-2-[1-(3-chloro-2-fluoro-phenyl)-cyclopropyl carbamoyl]-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O[Si](C)(C)C(C)(C)C)C(NC1(CC1)C1=C(C(=CC=C1)Cl)F)=O | C25H37ClF2N2O4Si
